US08309581B2
2-(4-Chloro-2-cyclohexylmethoxy-phenyl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole
To the solution of 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol (Example 19, intermediate a) (98 mg, 0.26 mmol) in acetone (10 ml) was added cesium carbonate (127 mg, 0.39 mmol) followed by bromomethyl-cyclohexane (42 mg, 0.31 mmol; CAS Reg. No. 2550-36-9) and the reaction was refluxed for 12 h. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The crude material was purified by column chromatography using silica gel (30-40% ethyl acetate/n-hexane) to afford the desired product as an off-white powder (56%). MS (Turbo Spray): m/z=473.0 (M+H).

reactant | 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H19ClF2N2O
reactant | cesium carbonate | 0.39 mmol, 127 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromomethyl-cyclohexane | BrCC1CCCCC1 | C7H13Br
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(4-Chloro-2-cyclohexylmethoxy-phenyl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | 56% | ClC1=CC(=C(C=C1)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)OCC2CCCCC2 | C27H31ClF2N2O
